US08242116B2
tert-Butyl [4-(cyclopropylmethoxy)phenyl]carbamate
To a stirred solution of 4-[N-(tert-butoxycarbonyl)amino]phenol (5.0 g, 23.89 mmol) in DMF (140 mL) was added cesium carbonate (19.5 g, 59.73 mmol). The reaction mixture was stirred at r.t. for 20 minutes, and then cyclopropylmethyl bromide (2.3 mL, 23.89 mmol) was added. The reaction mixture was stirred at r.t. for 2 days, cooled to r.t., filtered and partitioned between Et2O (2×25 mL) and water (100 mL). The layers were separated, and the aqueous fraction was further extracted with Et2O (3×50 mL). The combined organic fractions were washed with water (3×150 mL), dried (Na2SO4), filtered and concentrated in vacuo to give the title compound (5.1 g, 81%) as a light pink solid that was used without further purification. δH (DMSO-d6) 8.82 (1H, br. s), 7.09-7.06 (2H, m), 6.59-6.54 (2H, m), 3.50 (2H, d, J 6.9 Hz), 1.22 (9H, s), 0.97-0.90 (1H, m), 0.34-0.28 (2H, m), 0.08-0.03 (2H, m). LCMS (ES+) 207.0 ((M−tBu)+H)+, RT 3.20 minutes (Method 3).

reactant | 4-[N-(tert-butoxycarbonyl)amino]phenol | 23.89 mmol, 5.0 g | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)O | C11H15NO3
reactant | cesium carbonate | 59.73 mmol, 19.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | cyclopropylmethyl bromide | 23.89 mmol, 2.3 mL | C1(CC1)CBr | C4H7Br
solvent | DMF | 140 mL | CN(C)C=O | C3H7NO
product | tert-Butyl [4-(cyclopropylmethoxy)phenyl]carbamate | 5.1 g, 81% | C1(CC1)COC1=CC=C(C=C1)NC(OC(C)(C)C)=O | C15H21NO3
